US07368474B2
1. e) 4-Fluoromethyl-N-(2-mercaptoethyl)benzamide
To 1.4 mg (3.0 μmol) of 4-fluoromethyl-N-[2-(tritylsulphanyl)ethyl]benzamide was added 50 μl of TFA/TIS/H2O(95:2.5:2.5) mixture. The flask was swirled gently for 5 minutes and then concentrated in vacuo. LC-MS analysis (column Phenomenex Luna 3 μm C18(2) 50×2.00 mm; solvents: A=water/0.1% HCOOH and B=acetonitrile/0.1% HCOOH; gradient 5-60% B over 10 min; flow 0.3 ml/min, UV detection at 214 and 254 nm, ESI-MS) gave a peak (tR 6.8 min) with m/z at 214 corresponding to MH+.

reactant | 4-fluoromethyl-N-[2-(tritylsulphanyl)ethyl]benzamide | 3.0 μmol, 1.4 mg | FCC1=CC=C(C(=O)NCCSC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C29H26FNOS
reactant | TFA | 50 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | O | H2O
product | 4-Fluoromethyl-N-(2-mercaptoethyl)benzamide | FCC1=CC=C(C(=O)NCCS)C=C1 | C10H12FNOS
